US04013635
The 2-t-butylsulfamoyl-5-(3-fluorosulfonylbenzenesulfonamido)-4-(2-methylsulfonyl-4-nitrophenylazo)-1-naphthol was prepared by diazo coupling. 7.6 G. (0.11 mol) of sodium nitrite was added to 66 ml. of sulfuric acid at 5° C. and warmed to 70° C. to effect solution. After cooling to 25° C., 23.8 g. (0.11 mol) of 2-methanesulfonyl-4-nitroaniline was added, and the mixture stirred for 2 hours. The diazonium salt mixture was poured into 250 ml. of 1:5 acid (1 part propionic acid to 5 parts acetic acid) at 5° C. A solution of the coupler was prepared by dissolving 51.6 g. (0.1 mol) of 2-t-butylsulfamoyl-5-(3-fluorosulfonylbenzenesulfonamido)-1-naphthol in 66 ml. of pyridine, cooling to 10° C., and adding 520 ml. of the 1:5 acid at 30° C. The diazonium mixture was added to the coupler solution and stirred for one hour at 7° C., the solid collected on a filter funnel and then slurried twice in 500 ml. of 1% hydrochloric acid. The slurry was filtered and the solid dried in a desiccator at 60° C. to yield 25.8 g. of dye. The filtrates from the reaction mixture were diluted to 8000 ml. with water to precipitate additional dye, which was collected on a filter funnel and dried in a desiccator to yield an additional 40 g. (88% total).

reactant | sodium nitrite | 0.11 mol | N(=O)[O-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-methanesulfonyl-4-nitroaniline | 0.11 mol | CS(=O)(=O)C1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O4S
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | 2-t-butylsulfamoyl-5-(3-fluorosulfonylbenzenesulfonamido)-1-naphthol | 0.1 mol | C(C)(C)(C)NS(=O)(=O)C1=C(C2=CC=CC(=C2C=C1)NS(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)F)O | C20H21FN2O7S3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-t-butylsulfamoyl-5-(3-fluorosulfonylbenzenesulfonamido)-4-(2-methylsulfonyl-4-nitrophenylazo)-1-naphthol | C(C)(C)(C)NS(=O)(=O)C1=C(C2=CC=CC(=C2C(=C1)N=NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)C)NS(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)F)O | C27H26FN5O11S4
